US05624943
3.5 g of 3-(6-carboxy-3-hydroxy-2-pyridyl)-propionic acid is suspended in 25 ml of toluene, mixed with 32 ml of N,N-dimethylformamide-di-tert-butylacetal and heated for one hour to 75°-80° C. (bath temperature). The reaction mixture is washed with water, 10% sodium bicarbonate solution and saturated common salt solution, dried on sodium sulfate and concentrated by evaporation. The residue is chromatographed on silica gel with hexane/0-15% ethyl acetate. 1.65 g of 3-(6-tert-butoxycarbonyl-3-hydroxy-2-pyridyl)-propionic acid-tert-butyl ester of melting point 172°-174° C. is obtained.

reactant | 3-(6-carboxy-3-hydroxy-2-pyridyl)-propionic acid | 3.5 g | C(=O)(O)C1=CC=C(C(=N1)CCC(=O)O)O | C9H9NO5
reactant | N,N-dimethylformamide-di-tert-butylacetal | 32 ml | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 3-(6-tert-butoxycarbonyl-3-hydroxy-2-pyridyl)-propionic acid-tert-butyl ester | 1.65 g | C(C)(C)(C)OC(CCC1=NC(=CC=C1O)C(=O)OC(C)(C)C)=O | C17H25NO5
